US07144885B2
A mixture of 4-ethoxy-2-hydroxy-5-methyl-benzaldehyde (2.4 g, 14.6 mmol), sodium acetate (2.40 g, 29.25 mmol, 2.0 eq), acetic acid (3.4 g, 57.1 mmol, 3.9 eq), and nitroethane (2.2 g, 29.25 mmol, 2.0 eq) was heated in a sealed tube at 115° C. for 18 h. The black reaction mixture was poured into 40 g of ice and extracted 5 times with diethyl ether (100 mL). The organic layers were combined, washed 3 times with sat. sodium bicarbonate solution (25 mL), one time with brine, dried with sodium sulfate an finally concentrated in vacuo to give a black colored oil. Purification by MPLC chromatography (Biotage) using a hexane-ethyl acetate gradient gave 1.45 g (61%) of 2-hydroxy-5-hydroxymethoxy-benzonitrile as an orange solid. 1H-NMR (DMSO-d6) δ 10.69 (s, 1H), 7.04 (s, 1H), 6.51 (1, 2H), 6.01 (s, 2H); TLC Rf=0.73, 50% ethyl acetate-hexanes.

reactant | 4-ethoxy-2-hydroxy-5-methyl-benzaldehyde | 14.6 mmol, 2.4 g | C(C)OC1=CC(=C(C=O)C=C1C)O | C10H12O3
reactant | sodium acetate | 29.25 mmol, 2.40 g, 2.0 eq | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 57.1 mmol, 3.4 g, 3.9 eq | C(C)(=O)O | C2H4O2
reactant | nitroethane | 29.25 mmol, 2.2 g, 2.0 eq | [N+](=O)([O-])CC | C2H5NO2
product | 2-hydroxy-5-hydroxymethoxy-benzonitrile | 1.45 g, 61% | OC1=C(C#N)C=C(C=C1)OCO | C8H7NO3
